US06417152B1
β-Glucanase is preferably incorporated in compositions according to the invention in such quantities that they have glucanolytic activities of 0.05 U/g to 1 U/g and more particularly in the range from 0.06 U/g to 0.25 U/g. The determination of the glucanolytic activity is based on modifications of the process described by M. Lever in Anal. Biochem. 47 (1972), 273-279 and Anal Biochem. 81 (1977), 21-27. A 0.5% by weight solution of β-glucan (Sigma No. G6513) in 50 mM glycine buffer (pH 9.0) is used for this purpose. 250 μl of this solution are added to 250 μl of a solution containing the agent to be tested for glucanolytic activity and incubated for 30 minutes at 40° C. 1.5 ml of a 1% by weight solution of p-hydroxybenzoic acid hydrazide (PAHBAH) in 0.5 M NaOH, which contains 1 mM bismuth nitrate and 1 mM potassium sodium tartrate, are then added, after which the solution is heated for 10 minutes to 70° C. After cooling (2 minutes/0° C.), the absorption at 410 nm is determined against a blank value at room temperature (for example with a Uvikon® 930 photometer) using a glucose calibration curve. The blank value is a solution which is prepared in the same way as the measuring solution except that the glucan solution is added after the PAHBAH solution. 1 U corresponds to the quantity of enzyme which produces 1 μmole of glucose per minute under these conditions.

reactant | p-hydroxybenzoic acid hydrazide | OC1=CC=C(C(=O)NN)C=C1 | C7H8N2O2
reactant | bismuth nitrate | 1 mM | [N+](=O)([O-])[O-].[Bi+3].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
reactant | potassium sodium tartrate | 1 mM | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | glycine | 50 mM, pH 9.0 | NCC(=O)O | C2H5NO2
solvent | NaOH | 0.5 M | [OH-].[Na+]
product | glucose | 1 μmole | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
